US04857449
(P-149): Methyl methacrylate-butyl methacrylate copolymer (65/35)
(P-154): Butyl methacrylate-styrene copolymer (90/10)

reactant | P-154 | CC(C(C)(C)C)N=C(NC#N)NC1=CC=NC=C1.O
reactant | Butyl methacrylate styrene | C(C(=C)C)(=O)OCCCC.C=CC1=CC=CC=C1
product | Methyl methacrylate butyl methacrylate | C(C(=C)C)(=O)OC.C(C(=C)C)(=O)OCCCC | InChI=1S/C8H14O2.C5H8O2/c1-4-5-6-10-8(9)7(2)3;1-4(2)5(6)7-3/h2,4-6H2,1,3H3;1H2,2-3H3
